US07098219B2
1-(2′,4′-Difluorophenyl)-6-fluoro-1,4-dihydro-7-(3′,5′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid
The condensation of with 1-(2′,4′-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 3,5-dimethylpiperidine in a similar manner as described in example 1 gave the titled product. Yield 43%, m.p 224–26° C., C23H21F3N2O3, m/z 431. (M+1)

reactant | 1-(2′,4′-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C16H7F4NO3
reactant | 3,5-dimethylpiperidine | CC1CNCC(C1)C | C7H15N
product | 1-(2′,4′-Difluorophenyl)-6-fluoro-1,4-dihydro-7-(3′,5′-dimethylpiperidin-1-yl)-4-oxo-quinoline-3-carboxylic acid | Yield 43% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC(C1)C)C)F)=O)C(=O)O | C23H21F3N2O3
